US06664256B1
(3) Preparation of 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine
Hydrazine hydrate (0.8 mP, 16.5 mmol) was added to a solution of 3-(4-chlorophenyl)-4-[4-(methylsulfonyl)phenyl]-4-oxo-butyraldehyde (4.5 g, 12.8 mmol) in ethanol (100 ml), followed by stirring at room temperature for 1 hour. Hydrogen peroxide solution 31% (6 ml) was added to the reaction mixture, and the resulting mixture was stirred at 60° C. for 18 hours. The mixture was concentrated under reduced pressure and the residue was separated and purified by chromatography on a silica gel column [silica gel 70 g, chloroform/methanol (50/1)], whereby the title compound was obtained as a pale yellow amorphous solid (2.60 g, 58.8%).

reactant | Hydrazine hydrate | 16.5 mmol | O.NN
reactant | 3-(4-chlorophenyl)-4-[4-(methylsulfonyl)phenyl]-4-oxo-butyraldehyde | 12.8 mmol, 4.5 g | ClC1=CC=C(C=C1)C(CC=O)C(=O)C1=CC=C(C=C1)S(=O)(=O)C | C17H15ClO4S
reactant | Hydrogen peroxide | 6 ml | OO | H2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine | 2.60 g, 58.8% | ClC1=CC=C(C=C1)C1=C(N=NC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C17H13ClN2O2S
